US05284847
2-Ethoxalylamino-5-phenylthiophene (2.75 g, 10 mmol) was dissolved in 20 ml of acetic anhydride, cooled to -15° C., and treated with a solution of 0.63 ml (10 mmol) of fuming nitric acid dissolved in 5 ml of acetic acid over a period of 30 minutes. After 10 minutes at this temperature, the solvents were evaporated, and traces of acetic acid were removed by stripping with toluene. The solid residue was suspended in 50 ml of ethanol, and 50 ml of water was slowly added. The mixture was stirred overnight, and the precipitate was isolated by filtration to yield 2.62 g (82%) of 2-ethoxalylamino-5-phenyl-3-nitrothiophene, melting at 139°-144° C. 1H-NMR (DMSO-D6, δ): 1.3 (t, 3H), 4.4 (q, 2H), 6.9 (t, 1H), 7.0 (t, 2H), 7.8 (d, 2H), 8.0 (s, 1H).

reactant | 2-Ethoxalylamino-5-phenylthiophene | 10 mmol, 2.75 g | C(=O)(C(=O)OCC)NC=1SC(=CC1)C1=CC=CC=C1 | C14H13NO3S
reactant | nitric acid | 10 mmol, 0.63 ml | [N+](=O)(O)[O-] | HNO3
solvent | acetic anhydride | 20 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 2-ethoxalylamino-5-phenyl-3-nitrothiophene | 2.62 g, 82% | C(=O)(C(=O)OCC)NC=1SC(=CC1[N+](=O)[O-])C1=CC=CC=C1 | C14H12N2O5S
